US07947676B2
1-(2-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethyl)piperidin-4-ol
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine and 4-hydroxypiperidine to give the title compound in 39% yield; NMR Spectrum: 1.32-1.39 (m, 2H), 1.66-1.69 (m, 2H), 2.15 (t, 2H), 2.75-2.80 (m, 4H), 3.40-3.44 (m, 1H), 4.40 (t, 2H), 4.53 (br s, 1H), 5.25 (s, 2H), 7.18 (t, 1H), 7.23 (d, 1H), 7.29-7.33 (m, 2H), 7.44-7.47 (m, 1H), 7.56 (d, 1H), 7.90 (s, 1H), 8.29 (s, 1H), 8.50 (br s, 1H); Mass Spectrum: 513 (MH+).

reactant | 3-(2-chloroethoxy)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=CC(=CC=C2)F)Cl | C20H16Cl2FN5O2
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 1-(2-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethyl)piperidin-4-ol | 39% yield | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=C2C(=NC=N1)NN=C2OCCN2CCC(CC2)O | C25H26ClFN6O3
